US04003862
Preparation of N-methyloltetrabromophthalimide
Tetrabromophthalimide (30 gm) was suspended in 100 ml of ethanol and 50 gm of 38 percent formaldehyde was added. Then the solution was stirred and heated for three hours at 85° C. Upon cooling, the product was filtered yielding 28 gm of a white solid having a melting point greater than 350° C. The infrared spectrum of the product showed the disappearance of the imide NH and the appearance of an OH absorption at 3450 cm-1. Analysis: Calculated for C9H3Br4NO3 ; Br, 64.8; hydroxyl number: 89.0; Found: Br, 63.28; hydroxyl number: 90.45.

reactant | Tetrabromophthalimide | 30 gm | BrC=1C(=C(C(=C2C1C(=O)NC2=O)Br)Br)Br | C8HBr4NO2
reactant | formaldehyde | 50 gm | C=O | CH2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-methyloltetrabromophthalimide | 28 gm | C(O)N1C(C=2C(C1=O)=C(C(=C(C2Br)Br)Br)Br)=O | C9H3Br4NO3
